US20010014751A1
In a 1 L flask equipped with a reflux condenser, containing 77.0 g (0.16 mol) of 2,5-bis(2-phenyl-benzyl) adipic acid, obtained as described above, were added 150 mL (2.06 mol) of SOCl2). A white suspension was obtained, which was warmed to 50° C. and became a yellow solution, with concomitant evolution of HCl and SO2. After gas evolution had finished, the excess SOCl2 was removed under vacuum. To the obtained mixture were then added 100 mL of toluene, which was subsequently removed under vacuum to ensure complete removal of SOCl2. 2,5-bis(2-phenyl-benzyl) adipic acid dichloride (82.9 g, yield of 100 %) was isolated, in the form of a viscous beige oil.

reactant | 2,5-bis(2-phenyl-benzyl) adipic acid | 0.16 mol, 77.0 g | C1(=CC=CC=C1)C1=C(CC(C(=O)O)CCC(C(=O)O)CC2=C(C=CC=C2)C2=CC=CC=C2)C=CC=C1 | C32H30O4
reactant | SOCl2 | 2.06 mol, 150 mL | O=S(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
product | 2,5-bis(2-phenyl-benzyl) adipic acid dichloride | 82.9 g, yield of 100 % | C1(=CC=CC=C1)C1=C(CC(C(=O)Cl)CCC(C(=O)Cl)CC2=C(C=CC=C2)C2=CC=CC=C2)C=CC=C1 | C32H28Cl2O2
